US04269788
1.1 ml. (about 3 equivalents) of condensed dimethylamine are added at -10° C. to 1.5 g. of methanesulfonic acid 1-methyl-2-(1-phenyl-2,5-cyclohexadien-1-yl)-ethyl ester in 5 ml. of toluene. The mixture is then held at 150° C. in a pressure vessel for 16 hours. Subsequently, the mixture is cooled down and worked-up as follows: The toluene phase is washed with water, concentrated, treated with ether and 3 N aqueous hydrochloric acid and shaken out. The aqueous extract is made basic with concentrated ammonia and extracted with ether. There is obtained an oily residue which is chromatographed on a thick-layer plate with methylene chloride/methanol (10:1). There is obtained α,N,N-trimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine which is converted in the usual manner into the hydrochloride.

reactant | dimethylamine | CNC | C2H7N
reactant | methanesulfonic acid 1-methyl-2-(1-phenyl-2,5-cyclohexadien-1-yl)-ethyl ester | CC(CC1(C=CCC=C1)C1=CC=CC=C1)OS(=O)(=O)C | C16H20O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | α,N,N-trimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine | CC(CC1(C=CCC=C1)C1=CC=CC=C1)N(C)C | C17H23N
